US08648066B2
3-{[(3S)-3-aminopyrrolidin-1-yl]sulfonyl}-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-2-ol.
Prepared according to the method of example 5 by using 1,1-dimethylethyl {(3S)-1-[(5-bromo-2-hydroxypyridin-3-yl)sulfonyl]pyrrolidin-3-yl}carbamate (reagent preparation 40) and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.53 (d, 2H), 8.00 (s, 1H), 7.57 (s, 1H), 7.41 (d, 1H), 7.03 (d, 1H), 5.12 (s, 2H), 4.45 (m, 1H), 4.29 (m, 1H), 3.93 (m, 1H), 3.72 to 3.55 (m, 6H), 2.85 (t, 2H), 2.56 (s, 2H), 2.35 (m, 1H), 2.06 (m, 1H), 1.69 (t, 2H), 0.93 (s, 6H); MS (EI) for C28H34N6O4S: 551 (MH+).

reactant | 1,1-dimethylethyl {(3S)-1-[(5-bromo-2-hydroxypyridin-3-yl)sulfonyl]pyrrolidin-3-yl}carbamate | BrC=1C=C(C(=NC1)O)S(=O)(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C14H20BrN3O5S
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 3-{[(3S)-3-aminopyrrolidin-1-yl]sulfonyl}-5-[4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridin-2-ol | N[C@@H]1CN(CC1)S(=O)(=O)C=1C(=NC=C(C1)C=1C=CC2=C(CN(CCO2)C2=NC=NC=3CCC(CC23)(C)C)C1)O | C28H34N6O4S
